US07825244B2
4-{7-[3-(2-Oxo-pyrrolidin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester
To a mixture of 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester 66.9 mg, 0.20 mmol), as prepared in Example 12b, and tert-BuOK (33.4 mg, 0.30 mmol) was added 1-(3-hydroxypropyl)-2-pyrrolidone (34.7 mg, 0.24 mmol) in anhydrous THF (3 mL). The mixture was stirred at 85° C. for 15 min and the solvent was evaporated under reduced pressure to give a light brown residue, which is used for the next step reaction without purification. 1H NMR (300 MHz, CDCl3) δ 9. 10 (s, 1H), 8.03 (d, J=9.13 Hz, 1H), 7.26 (m, 1H), 7.23 (dd, J=9.05 and 2.43 Hz, 1H), 4.14 (t, J=6.08 Hz, 2H), 3.58 (m, 1H), 3.50 (t, J=6.60 Hz, 4H), 3.42 (t, J=6.98 Hz, 4H), 2.37 (t, J=8.45 Hz, 2H), 1.80-2.15 (m, 8H), 1.46 (s, 9H). LC-MS (ESI) calcd for C25H35N4O4 (MH+) 455.3, found 455.2.

reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.20 mmol, 66.9 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
reactant | tert-BuOK | 0.30 mmol, 33.4 mg | C(C)(C)(C)O[K]
reactant | 1-(3-hydroxypropyl)-2-pyrrolidone | 0.24 mmol, 34.7 mg | OCCCN1C(CCC1)=O | C7H13NO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-{7-[3-(2-Oxo-pyrrolidin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCN1C(CCC1)=O | C25H34N4O4
